US05585500
A mixture of 50.0 g (0.373 mole) (S)-malic acid (Ia), 41 ml (0.373 mole) benzyl amine and 250 ml cumene was heated with an internal temperature of 155° C. for 2.5 h on a water separator, during which time 12 ml water were separated. An oily phase formed during cooling off which slowly crystallized. The cumene was decanted off thereafter and the residue crystallized out of 220 ml EtOH. 30.3 g (39.6%) (S)-1-benzyl-3-hydroxy-2,5-pyrrolidinedione (IIa) were isolated in the form of colorless crystals.

reactant | (S)-malic acid | 0.373 mole, 50.0 g | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | benzyl amine | 0.373 mole, 41 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | cumene | 250 ml | C1(=CC=CC=C1)C(C)C | C9H12
solvent | water | 12 ml | O | H2O
product | (S)-1-benzyl-3-hydroxy-2,5-pyrrolidinedione | 30.3 g, 39.6% | C(C1=CC=CC=C1)N1C([C@H](CC1=O)O)=O | C11H11NO3
